US07262185B2
A solution of 5-chloro-2-(4-fluorobenzoyl)pyridine (3.0 g) and sodium azide (0.84 g) in DMSO (60 ml) was stirred for 20 hours at 90° C. To the reaction mixture was added water, and the mixture was extracted with diethylether. The organic layer was washed with water and saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and a solution of the residue (3.19 g) in. THF (60 ml) was added dropwise to a suspension of aluminum lithium hydride (0.97 g) in THF (10 ml) at 0° C. The mixture was stirred at 0° C. for 10 minutes, and water (0.97 ml), 15% aqueous solution of sodium hydroxide (0.97 ml) and water (2.9 ml) were sequentially and slowly added dropwise to the solution. The mixture was stirred at room temperature for 18 hours, magnesium sulfate was added to the mixture, and the precipitates were removed by filtration (Celite). The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography (ethyl acetate:hexane 1:1→2:1), to give (4-aminophenyl)(5-chloropyridin-2-yl)methanol (0.90 g) as pale yellow crystals.

reactant | 5-chloro-2-(4-fluorobenzoyl)pyridine | 3.0 g | ClC=1C=CC(=NC1)C(C1=CC=C(C=C1)F)=O | C12H7ClFNO
reactant | sodium azide | 0.84 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
product | (4-aminophenyl)(5-chloropyridin-2-yl)methanol | 0.90 g | NC1=CC=C(C=C1)C(O)C1=NC=C(C=C1)Cl | C12H11ClN2O
